US06348474B1
2-Chloro-4-((2-(N-methyl-N-(2-pyridinyl)amino)ethyl)oxy)benzaldehyde
To a solution of 2-[N-(2-hydroxyethyl)-N-methylamino]pyridine (3.87 g) in dry N,N-dimethylformamide (39 ml) was added sodium hydride (60% in oil, 1.12 g), and the reaction mixture was stirred at room temperature for 30 min. 2-Chloro-4-fluorobenzaldehyde (4.43 g) was added to the reaction mixture and the mixture was stirred for 3 days. The mixture was diluted with ethyl acetate and washed with water. The aqueous layer was extracted twice with ethyl acetate. The organic layers were combined, dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to give the objective compound (3.30 g) as a pale-yellow oil.

reactant | 2-[N-(2-hydroxyethyl)-N-methylamino]pyridine | 3.87 g | OCCN(C)C1=NC=CC=C1 | C8H12N2O
reactant | sodium hydride | 1.12 g | [H-].[Na+]
reactant | 2-Chloro-4-fluorobenzaldehyde | 4.43 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
solvent | N,N-dimethylformamide | 39 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-4-((2-(N-methyl-N-(2-pyridinyl)amino)ethyl)oxy)benzaldehyde | 3.30 g | ClC1=C(C=O)C=CC(=C1)OCCN(C1=NC=CC=C1)C | C15H15ClN2O2
